US09388189B2
(S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (0.55 g, 2.05 mmol) was treated with 6-chloro-5-iodopyrimidin-4-amine (1 g, 3.29 mol), cesium fluoride (0.62 g, 4.08 mmol), N,N-diisopropylethylamine (1.79 mL, 10.28 mol) according to Preparation 13. The residue was purified using SP1® Purification System (0% to 100%, hexane-ethyl acetate) to give 0.59 g (59% yield) of the title compound as a solid. Purity 100%.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 2.05 mmol, 0.55 g | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 6-chloro-5-iodopyrimidin-4-amine | 3.29 mol, 1 g | ClC1=C(C(=NC=N1)N)I | C4H3ClIN3
reactant | cesium fluoride | 4.08 mmol, 0.62 g | [F-].[Cs+]
reactant | N,N-diisopropylethylamine | 10.28 mol, 1.79 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | (S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.59 g, 59% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)I | C19H18IN7O
